### PR TITLE
feat(Electromagnetism): gauge transformations of the electromagnetic potential

### PR DESCRIPTION
**Pull request by jfindlay**
Defines gauge transformations of the electromagnetic potential `A^μ ↦ A^μ + ∂^μ χ`, where `χ : SpaceTime d → ℝ` is a smooth gauge function, and proves that the field strength tensor is invariant under them.

## Key results

- `ofGradient` : the pure-gauge potential `A^μ = η^{μν} ∂_ν χ`, with `fieldStrengthMatrix_bareGradient_inl_inr` as a necessity witness — the **bare** covariant gradient `∂_μ χ` does *not* leave `F^{μν}` invariant, so the raised-index
  contraction is forced.
- `toFieldStrength_gaugeTransform` / `fieldStrengthMatrix_gaugeTransform` : invariance of the field strength under gauge transformations.
- `gaugeTransform_gaugeTransform`, `gaugeTransform_zero` : gauge shifts compose additively, upgrading one-step invariance to invariance along any finite chain of gauge shifts.
- `ofGradient_equivariant` / `gaugeTransform_equivariant` : gauge transformations commute with the Lorentz group action (via `Λη = η(Λ⁻¹)ᵀ`).

## Supporting infrastructure (`SpaceTime/Derivatives.lean`)

- `deriv_commute` : spacetime coordinate derivatives commute (Clairaut) for `C²` functions — the engine of the invariance proof.
- `contDiff_deriv`, `differentiable_deriv` : smoothness of `∂_ μ f` from smoothness of `f`, both `@[fun_prop]`.

### CODE REVIEW

File: Physlib/Electromagnetism/Kinematics/GaugeTransformation.lean [hunk 1]
```diff
@@ -0,0 +1,390 @@
...
+/-- The pure-gauge potential built from the zero gauge function has all components zero.
+  (Stated pointwise: `ElectromagneticPotential` carries no `Zero` instance, so the bundled
+  form `ofGradient 0 = 0` is not expressible.) -/
+lemma ofGradient_zero {d} (x : SpaceTime d) (μ : Fin 1 ⊕ Fin d) :
+    ofGradient (0 : SpaceTime d → ℝ) x μ = 0 := by
+  rw [ofGradient_apply]
+  simp [SpaceTime.deriv_eq]
+
+/-- `ofGradient` is additive in the gauge function (when both summands are differentiable). -/
+lemma ofGradient_add {d} {χ₁ χ₂ : SpaceTime d → ℝ}
```
Comment (jstoobysmith) [inline Physlib/Electromagnetism/Kinematics/GaugeTransformation.lean]: I would be tempted here to put all of the results related to `ofGradient` next to each other, and all of the `gaugeTransform` results next to each other (if this makes sense).

**Review by jstoobysmith — APPROVED** [review]
Approved! Many thanks for this PR - will merge shortly
